US09029560B2
2-Isopropyl-5-methylaniline (286 g, 1.91 mol) and sodium bicarbonate (270 g, 3.22 mol) were charged in to a round bottomed flask with stirring under nitrogen atmosphere and cooled to 0-5° C. 2-Chloroacetyl chloride (218 g, 1.93 mol) was added drop wise at 0-5° C. over a period of 1 hour. The reaction was stirred at 0-5° C. for 1 hour. After completion of the reaction, purified water (2.86 L) was added and stirred at 25-30° C. for 15 minutes. The layers were then separated. The organic layer was washed with water (2×2.86 L) and with brine (1.43 L). The aqueous layers were combined and extracted with ethyl acetate (1.43 L). The organic layers were dried with sodium sulphate, filtered, and concentrated at 50-55° C. under vacuum (500-600 mm Hg) to 2/5ths volume. Hexanes (2.86 L) were added and the mixture was stirred at 25-30° C. for 1 hour. The solid was filtered, washed with hexanes (1.43 L), and dried at 45-50° C. under vacuum (500-600 mm Hg) to give 2-chloro-N-(2-isopropyl-5-methylphenyl)acetamide as an off-white solid (270 g, 66%): mp 97-99° C.; 1H NMR (300 MHz, CDCl3) δ 8.27 (s, 1H), 7.60 (s, 1H), 7.20 (d, J=7.95 Hz, 1H), 7.04 (d, J=7.89 Hz, 1H), 4.25 (s, 2H), 2.99 (q, J=6.78 Hz, 1H), 2.34 (s, 3H), 1.26 (d, J=6.84 Hz, 6H); 13C NMR (100 MHz, CDCl3) δ 164.07, 137.28, 136.33, 132.95, 127.35, 125.62, 124.46, 43.21, 27.86, 22.98, 21.00; ESIMS m/z 226 ([M+H]+).

reactant | 2-Isopropyl-5-methylaniline | 1.91 mol, 286 g | C(C)(C)C1=C(N)C=C(C=C1)C | C10H15N
reactant | sodium bicarbonate | 3.22 mol, 270 g | C([O-])(O)=O.[Na+]
reactant | 2-Chloroacetyl chloride | 1.93 mol, 218 g | ClCC(=O)Cl | C2H2Cl2O
product | 2-chloro-N-(2-isopropyl-5-methylphenyl)acetamide | 270 g, 66% | ClCC(=O)NC1=C(C=CC(=C1)C)C(C)C | C12H16ClNO
